US04742060
0.4 g of sodium hydride 60% in oil was added portionwise to a solution of 2.6 g of 1-(2-chloro-5-pyridylmethyl)-2-nitroiminoimidazolidine in 20 ml of dry dimethylformamide. The mixture was stirred at room temperature until the evolution of hydrogen ceased. A solution of 1.5 g of isopropyl bromide in 5 ml of dry dimethylformamide was added dropwise to the mixture at room temperature and stirred for 3 hours at room temperature after the addition. The reaction mixture was then poured into ice water, and the precipitated crystals filtered. This was recrystallized from ethanol to give 1-(2-chloro-5-pyridylmethyl)-3-isopropyl-2-nitroiminoimidazolidine. The yield was 1.5 g.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 1-(2-chloro-5-pyridylmethyl)-2-nitroiminoimidazolidine | 2.6 g | ClC1=NC=C(C=C1)CN1C(NCC1)=N[N+](=O)[O-] | C9H10ClN5O2
reactant | hydrogen | [H][H] | H2
reactant | isopropyl bromide | 1.5 g | C(C)(C)Br | C3H7Br
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(2-chloro-5-pyridylmethyl)-3-isopropyl-2-nitroiminoimidazolidine | ClC1=NC=C(C=C1)CN1C(N(CC1)C(C)C)=N[N+](=O)[O-] | C12H16ClN5O2
